US04237275
The procedure is carried out as described in Example 1(a) but with the use of 216 g (2 mols) of 2-aminomethylpyridine and 144 g (2 mols) isobutyraldehyde. After a reaction time of 2 hours at 35°-40° C., subsequent distillation leaves 277 g (1.71 mols) of isobutylidene-2-aminomethylpyridine; yield 85.5% of theory; b.p. 69° C./200 Pa.

reactant | 2-aminomethylpyridine | 2 mols, 216 g | NCC1=NC=CC=C1 | C6H8N2
reactant | isobutyraldehyde | 2 mols, 144 g | C(C(C)C)=O | C4H8O
product | isobutylidene-2-aminomethylpyridine | 1.71 mols, 277 g, yield 85.5% | C(C(C)C)=C1C(N=CC=C1)CN | C10H16N2
